US07238725B2
N4-(4-pyridyl)-1-methoxy-9H-4-carbazole carboxamide
To a stirred solution of intermediate 72 (0.1 gm, 0.4145 mmoles) in dry DMF (5 ml) at room temperature, 4-aminopyridine (0.043 gm, 0.456 moles) was added followed by N-ethyl N′-diethylaminopropyl carbodiimide HCl (0.104 gm, 0.539 mmoles) and DMAP (5.0 mg, 0.04 mmoles).To the above solution triethylamine (0.08 ml, 0.58 mmoles) was added and the reaction mixture was stirred at the same temperature for 15 hours. The reaction mixture was poured in to water (20 ml) and extracted with ethyl acetate (2×20 ml). The organic layer was washed with water (3×20 ml) followed by brine (15 ml), dried over Na2SO4 and concentrated to give 0.1 gm of crude material which was purified by column chromatography, to give 20 mg of the title compound as pale yellow solid, m. p: >250° C.

reactant | 4-aminopyridine | 0.456 moles, 0.043 gm | NC1=CC=NC=C1 | C5H6N2
reactant | N-ethyl N′-diethylaminopropyl carbodiimide HCl | 0.539 mmoles, 0.104 gm | Cl.C(C)N=C=NCCCN(CC)CC
reactant | triethylamine | 0.58 mmoles, 0.08 ml | C(C)N(CC)CC | C6H15N
reactant | water | 20 ml | O | H2O
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.04 mmoles, 5.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N4-(4-pyridyl)-1-methoxy-9H-4-carbazole carboxamide | 20 mg | N1=CC=C(C=C1)NC(=O)C1=CC=C(C=2NC3=CC=CC=C3C12)OC | C19H15N3O2
